US05162360
(b) Preparation of N-[2,6-bis(1-methylethyl)phenyl]-N'-(5-dodecyl-3-isoxazolyl)urea
A slurry of 3-amino-5-dodecylisoxazole (2.20 g, 8.72 mmol) in acetonitrile (50 mL) was warmed until homogeneous. 2,6-Diisopropylphenyl-isocyanate (1.86 mL, 8.72 mmol) was then added in one portion and the resulting solution was heated under reflux for 6 hours. The resulting solution was cooled (25° C.), concentrated in vacuo, and chromatographed on silica (90:10 to 70;30 hexane:ethyl acetate). The product containing fractions were combined and concentrated to a solid which was washed with cold acetonitrile to yield 0.95 g (23.9%) of the title compound as a white solid, m.p. 101°-107° C.

reactant | 3-amino-5-dodecylisoxazole | 8.72 mmol, 2.20 g | NC1=NOC(=C1)CCCCCCCCCCCC | C15H28N2O
reactant | 2,6-Diisopropylphenyl-isocyanate | 8.72 mmol, 1.86 mL | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | N-[2,6-bis(1-methylethyl)phenyl]-N'-(5-dodecyl-3-isoxazolyl)urea | 0.95 g, 23.9% | CC(C)C1=C(C(=CC=C1)C(C)C)NC(=O)NC1=NOC(=C1)CCCCCCCCCCCC | C28H45N3O2
